datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:9])[H:8],65.1449
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:4],52.4674
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])=[C:2]([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14],100.793
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]([O:15][H:24])([H:22])[H:23])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14]([O:15][H:24])([H:22])[H:23],23.80696
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15])[H:6],35.4803
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:23])([H:24])[H:25])=[C:13]([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:26])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:20])[H:21])[H:22])([C:12]([H:23])([H:24])[H:25])[C:13]([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:26])[H:4],41.9655
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])=[C:9]([C:10]([H:22])([H:23])[H:24])[C:11]#[C:12][H:25])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:9]1([C:10]([H:22])([H:23])[H:24])[C:11]#[C:12][H:25])[H:13],113.345
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17],71.3037
[C:0]([C:1](=[C:2]([O:3][H:9])[H:8])[H:7])([H:4])([H:5])[H:6].[S:10][H:11]>>[C:0]([C:1]([C:2]([O:3][H:9])([H:8])[S:10][H:11])[H:7])([H:4])([H:5])[H:6],-12.9286
[C:0]([C:1](=[C:2]([C:3](=[C:4]1[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]1[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1[H:20])[H:14])[H:13])[H:12])([H:10])([H:11])[H:19],100.416
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29],70.2912
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17],51.4632
[C:1](=[C:2]([c:3]1[c:5]([H:6])[c:7]([H:8])[c:9]([H:10])[c:11]2[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([C:20]([C:21]([H:22])[H:23])([H:24])[H:25])[c:26]12)[H:28])([H:29])[H:30]>>[C:1]([C:2]1([H:28])[c:3]2[c:5]([H:6])[c:7]([H:8])[c:9]([H:10])[c:11]3[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([c:26]23)[C:20]([H:24])([H:25])[C:21]1([H:22])[H:23])([H:29])[H:30],167.36
[C:0](#[C:1][H:3])[H:2].[C:4]1([H:9])[C:5]([H:10])=[C:6]([H:11])[C:7]([H:12])=[C:8]1[H:13]>>[C:0](=[C:1][H:3])([H:2])[C:4]1([H:9])[C:5]([H:10])=[C:6]([H:11])[C:7]([H:12])=[C:8]1[H:13],45.1872
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:8])[H:7])([H:5])[H:6],37.9907
